US08232427B2
Step 3: N-isoamyl-N-(3 Methoxyphenylsulfonyl)D-tert-leucine benzyl ester
To a solution of N-(3 Methoxyphenylsulfonyl)D-tert-leucine benzyl ester (1.31 g, 3.35 mmol) in DMF (10 ml) is added K2CO3 (1.87 g, 13.4 mmol) followed by 1-iodo-3-methyl butane (1.33 g, 6.69 mmol) and the reaction mixture is heated to 70° C. overnight. The reaction is cooled to room temperature and then poured over 1 N HCl and extracted with Ethyl Acetate. The organics are washed with brine, dried over MgSO4 and concentrated. The crude product is purified by column chromatography eluting with a gradient of 5-40% (Hex-EtOAc) affording the title compound as a colorless oil (1.0 g, 65% yield). Mass spectrum (462.3; M+1).

reactant | N-(3 Methoxyphenylsulfonyl)D-tert-leucine benzyl ester | 3.35 mmol, 1.31 g | C(C1=CC=CC=C1)OC([C@H](NS(=O)(=O)C1=CC(=CC=C1)OC)C(C)(C)C)=O | C20H25NO5S
reactant | K2CO3 | 13.4 mmol, 1.87 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodo-3-methyl butane | 6.69 mmol, 1.33 g | ICCC(C)C | C5H11I
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-isoamyl-N-(3 Methoxyphenylsulfonyl)D-tert-leucine benzyl ester | 1.0 g, 65% yield | C(C1=CC=CC=C1)OC([C@H](N(S(=O)(=O)C1=CC(=CC=C1)OC)CCC(C)C)C(C)(C)C)=O | C25H35NO5S
